US09283224B2
Step 3: 5-(2-Aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide [(I), R1=Cl, R2=CF3, R3=R4=NH2, R12=H] (compd. 1)
A solution of 5-(2-amino-pyrimidin-4-yl)-2-(2-chloro-5-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid (581 mg, 1.52 mmol) in DMF (5 mL) and DIPEA (1.06 mL, 6.08 mmol) was stirred at 0° C. EDCl (582 mg, 3.04 mmol) and HOBT.NH3 (469 mg, 3.04 mmol) were added and the reaction mixture was stirred for 3 h at room temperature. The mixture was diluted with water and the resulting precipitate was collected by filtration to afford the title compound (475 mg, 82%).

reactant | 5-(2-amino-pyrimidin-4-yl)-2-(2-chloro-5-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid | 1.52 mmol, 581 mg | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)C(F)(F)F)Cl)C(=O)O | C16H10ClF3N4O2
reactant | DIPEA | 6.08 mmol, 1.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | 3.04 mmol, 582 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 3.04 mmol, 469 mg | N | H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-Aminopyrimidin-4-yl)-2-[2-chloro-5-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide | 475 mg, 82% | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)C(F)(F)F)Cl)C(=O)N | C16H11ClF3N5O
